US05677470
0.26 ml of water and 1.20 g of potassium carbonate were added to a solution of 1.12 g of methyl (2S,3R)-3-(2,4-difluorophenyl)-3-hydroxy-2-(p-toluenesulfonyloxy)propionate dissolved in 15 ml of dimethylformamide, and the mixture was stirred at room temperature overnight. Ethyl acetate and ice water were added to the reaction mixture, and the organic layer was collected by separation. After the organic layer was washed with water and dried, the solvent was removed. The residue was purified by silica gel column chromatography (solvent; hexane:ethyl acetate=10:1) to obtain 502 mg of methyl (2R,3R)-3-(2,4-difluorophenyl)-2-epoxypropionate.

reactant | water | 0.26 ml | O | H2O
reactant | potassium carbonate | 1.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl (2S,3R)-3-(2,4-difluorophenyl)-3-hydroxy-2-(p-toluenesulfonyloxy)propionate | 1.12 g | FC1=C(C=CC(=C1)F)[C@H]([C@@H](C(=O)OC)OS(=O)(=O)C1=CC=C(C=C1)C)O | C17H16F2O6S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | methyl (2R,3R)-3-(2,4-difluorophenyl)-2-epoxypropionate | 502 mg | FC1=C(C=CC(=C1)F)[C@@H]1[C@H](C(=O)OC)O1 | C10H8F2O3
